US09023860B2
N-(3-methylaminopropyl)-trifluoroacetamide
N-Methyl-1,3-diaminopropane (50 g, 0.56 mol) was dissolved in 200 mL acetonitrile followed by addition of ethyl trifluoroacetate (154 ml, 1.28 mol). The reaction mixture was stirred overnight at 85° C. The solvent was then removed in vacuo to yield the depicted product as a brown oil (101 g, 98.5%).

reactant | N-Methyl-1,3-diaminopropane | 0.56 mol, 50 g | CNCCCN | C4H12N2
reactant | ethyl trifluoroacetate | 1.28 mol, 154 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | N-(3-methylaminopropyl)-trifluoroacetamide | 101 g, 98.5% | CNCCCNC(C(F)(F)F)=O | C6H11F3N2O
